US07629363B2
1-[(4-amino-2-methylpyrimidin-5-yl)methyl]-3-bromo-4-hydroxy-6-methylpyridin-2(1H)-one
A mixture of 1-[(4-amino-2-methylpyrimidin-5-yl)methyl]-4-hydroxy-6-methylpyridin-2(1H)-one (0.5 g, 0.002 mol), and NBS (0.4 g, 0.002 mol)in glacial acetic acid (5.0 ml) was stirred at room temperature for 1 h under argon atmosphere. Acetic acid was removed in vacuo, residue was triturated with EtOAc containing 10% EtOH, and filtered. The pale yellow precipitate was washed with EtOAc containing 10% EtOH and dried in vacuo to afford the title compound (0.47 g, 725) as a pale yellow powder:

reactant | 1-[(4-amino-2-methylpyrimidin-5-yl)methyl]-4-hydroxy-6-methylpyridin-2(1H)-one | 0.002 mol, 0.5 g | NC1=NC(=NC=C1CN1C(C=C(C=C1C)O)=O)C | C12H14N4O2
reactant | NBS | 0.002 mol, 0.4 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
product | 1-[(4-amino-2-methylpyrimidin-5-yl)methyl]-3-bromo-4-hydroxy-6-methylpyridin-2(1H)-one | 0.47 g | NC1=NC(=NC=C1CN1C(C(=C(C=C1C)O)Br)=O)C | C12H13BrN4O2
